US08283353B2
4′-{[4-(6,13-dioxadispiro[3.2.5.2]tetradec-10-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile
A mixture of 3′-fluoro-4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (3.5 g), cyclobutane-1,1-diyldimethanol (1 g), p-toluenesulfonic acid monohydrate (0.014 g) and toluene (60 mL) was subjected to an azeotropic dehydration reaction by stirring at 110° C. for 16 hr in a reaction vessel equipped with a Dean-stark trap. The reaction mixture was concentrated, and the obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (3.6 g, 86%).

reactant | 3′-fluoro-4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 3.5 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)C2CCC(CC2)=O)=O)C=2C(=CC=CC2)C#N | C28H26FN5O2
reactant | cyclobutane-1,1-diyldimethanol | 1 g | C1(CCC1)(CO)CO | C6H12O2
catalyst | p-toluenesulfonic acid monohydrate | 0.014 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-{[4-(6,13-dioxadispiro[3.2.5.2]tetradec-10-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile | 3.6 g, 86% | C1CCC12COC1(CCC(CC1)N1C=3N(C(=C(C1=O)CC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)F)CCC)N=CN3)OC2 | C34H36FN5O3
